US07557213B2
A solution of 212 mg (0.43 mmol) 2,2,2-Trifluoro-N-{6-[3-(4-methoxy-3-methyl-benzoyl)-4-oxo-4H-quinolin-1-ylmethyl]-pyridin-2-yl}-acetamide, excess diethylamine and 5 mL of methanol were heated at 45° C. overnight. The solid was collected by filtration and purified by reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 32.4 mg of 1-(6-Amino-pyridin-2-ylmethyl)-3-(4-methoxy-3-methyl-benzoyl)-1H-quinolin-4-one. LC-MSD, m/z for C24H21N3O3 [M+H]: 400.16 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 1.5 min.

reactant | 2,2,2-Trifluoro-N-{6-[3-(4-methoxy-3-methyl-benzoyl)-4-oxo-4H-quinolin-1-ylmethyl]-pyridin-2-yl}-acetamide | 0.43 mmol, 212 mg | FC(C(=O)NC1=NC(=CC=C1)CN1C=C(C(C2=CC=CC=C12)=O)C(C1=CC(=C(C=C1)OC)C)=O)(F)F | C26H20F3N3O4
reactant | diethylamine | C(C)NCC | C4H11N
solvent | methanol | 5 mL | CO | CH4O
product | 1-(6-Amino-pyridin-2-ylmethyl)-3-(4-methoxy-3-methyl-benzoyl)-1H-quinolin-4-one | 32.4 mg | NC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(C1=CC(=C(C=C1)OC)C)=O | C24H21N3O3
